US04277470
(c) 3-Phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidin]-5'-one
55 mmoles of methyl β-(2-nitro-3-phenyl-bicyclo[2.2.2]-oct-5-en-2-yl)-propionate in 100 ml of ethanol are hydrogenated, with 3 g of Raney nickel, at 50° C.and under 70 bars. The catalyst is filtered off, the solvent is evaporated off and the residue is recrystallized from isopropanol.

reactant | methyl β-(2-nitro-3-phenyl-bicyclo[2.2.2]-oct-5-en-2-yl)-propionate | 55 mmoles | [N+](=O)([O-])C1(C2C=CC(C1C1=CC=CC=C1)CC2)CCC(=O)OC | C18H21NO4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 3-Phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidin]-5'-one | C1(=CC=CC=C1)C1C2CCC(CC2)C12NC(CC2)=O | C17H21NO
